US04065620
tert-butyl 3-(2'-ethoxycarbonylvinyl)-7-phenoxyacetamido-3-cephem-4-carboxylate-1-oxide
To a solution of 0.5 millimole of tert-butyl 3-formyl-7-phenoxyacetamido-3-cephem-4-carboxylate-1-oxide in 10 cc. of dry benzene was added 175 mg. (1 equivalent) of (carbethoxymethylene)-triphenylphosphorane. After allowing the reaction mixture to stand at room temperature for 11 days, the solvent was removed under reduced pressure, the residue taken up in hot ethyl acetate, and cooled to yield 140 mg. of crystalline triphenylphosphine oxide (m.p., 155°-157° C.) as by-product.

reactant | tert-butyl 3-formyl-7-phenoxyacetamido-3-cephem-4-carboxylate-1-oxide | 0.5 millimole | C(=O)C=1CS([C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C20H22N2O7S
reactant | (carbethoxymethylene)-triphenylphosphorane | 1 equivalent | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | benzene | C1=CC=CC=C1 | C6H6
product | tert-butyl 3-(2'-ethoxycarbonylvinyl)-7-phenoxyacetamido-3-cephem-4-carboxylate-1-oxide | C(C)OC(=O)C=CC=1CS([C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C24H28N2O8S
